US05763450
30.2 g of ethyl 3-dimethylaminoacrylate and 29.3 ml of triethylamine are dissolved in 180 ml of toluene and boiled at reflux. At this temperature a solution of 53 g of 4-bromo-2-chloro-benzoyl chloride (U.S. Pat. No. 4,959,363) in 50 ml of toluene is added dropwise over 30 min. and the mixture is subsequently heated at reflux for a further 1 hr. The mixture is left to cool to room temperature and is stirred in an ice bath for a further 30 min. The suspension is filtered and the precipitated triethylamine hydrochloride is washed with 40 ml of ice-cold toluene. The filtrate is concentrated to half of its volume and then, for crystallization, diluted with 100 ml of hexane and stirred in an ice bath for 1 hr. 51.2 g (67%) of ethyl 2-(4-bromo-2-chloro-benzoyl)-3-dimethylaminoacrylate are obtained as colourless crystals. M.p. 100°-101°.

reactant | ethyl 3-dimethylaminoacrylate | 30.2 g | CN(C=CC(=O)OCC)C | C7H13NO2
reactant | triethylamine | 29.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-chloro-benzoyl chloride | 53 g | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-bromo-2-chloro-benzoyl)-3-dimethylaminoacrylate | 51.2 g, 67% | BrC1=CC(=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C1)Cl | C14H15BrClNO3
